US05494911
16. N-(4-nitrophenyl)-5-ethylisoxazole-4-carboxamide
(of melting point 139° to 141° C.) from 5-ethylisoxazole-4-carbonyl chloride and 4-nitroaniline.

reactant | 5-ethylisoxazole-4-carbonyl chloride | C(C)C1=C(C=NO1)C(=O)Cl | C6H6ClNO2
reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
product | N-(4-nitrophenyl)-5-ethylisoxazole-4-carboxamide | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)C=1C=NOC1CC | C12H11N3O4
